US04920129
To a solution of 8-(2-methyl-6-methoxycarbonylaminobenzylamino)-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine (0.5 g) in methanol (23 ml) was added dropwise 20%-ethanolic hydrogen chloride (0.5 ml) at 5°-10° C. and the mixture was stirred for 1 hour. A solid was collected to give 8-(2-methyl-6-methoxycarbonylaminobenzylamino)-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine hydrochloride (0.27 g).

reactant | 8-(2-methyl-6-methoxycarbonylaminobenzylamino)-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine | 0.5 g | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C(=CC=C1)NC(=O)OC | C21H22N4O2
reactant | hydrogen chloride | 0.5 ml | Cl | ClH
solvent | methanol | 23 ml | CO | CH4O
product | 8-(2-methyl-6-methoxycarbonylaminobenzylamino)-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine hydrochloride | 0.27 g | Cl.CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C(=CC=C1)NC(=O)OC | InChI=1S/C21H22N4O2.ClH/c1-5-8-19-15(3)23-20-18(11-7-12-25(19)20)22-13-16-14(2)9-6-10-17(16)24-21(26)27-4;/h1,6-7,9-12,22H,8,13H2,2-4H3,(H,24,26);1H
